US06689922B1
(4E,6E)-7-{3-[2-(3,4-bis-Hydroxymethylphenyl)ethyl]-phenyl}-3-ethylocta-4,6-dien-3-ol
340 mg of (4E,6E)-7-(3-{2-[3,4-bis-(tert-butyldimethylsilanyloxymethyl)phenyl]ethyl}phenyl)-3-ethylocta-4,6-dien-3-ol (0.5 mmol) are dissolved in 10 ml of THF and 1.5 ml (1.5 mmol) of a tetrabutylammonium fluoride solution (1M in THF) are added dropwise. After 30 minutes, 10 ml of methanol are added and the mixture is concentrated under reduced pressure. After purification of the residue by chromatography on a silica column, a colourless oil is obtained (m=163 mg; Y=88%).

reactant | (4E,6E)-7-(3-{2-[3,4-bis-(tert-butyldimethylsilanyloxymethyl)phenyl]ethyl}phenyl)-3-ethylocta-4,6-dien-3-ol | 0.5 mmol, 340 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=CC1CO[Si](C)(C)C(C)(C)C)CCC=1C=C(C=CC1)/C(=C/C=C/C(CC)(O)CC)/C | C38H62O3Si2
reactant | tetrabutylammonium fluoride | 1.5 mmol, 1M, 1.5 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | methanol | 10 ml | CO | CH4O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (4E,6E)-7-{3-[2-(3,4-bis-Hydroxymethylphenyl)ethyl]-phenyl}-3-ethylocta-4,6-dien-3-ol | OCC=1C=C(C=CC1CO)CCC=1C=C(C=CC1)/C(=C/C=C/C(CC)(O)CC)/C | C26H34O3
